US07456164B2
(4-{4-[3-(1,1-Dioxo-thiomorpholin-4-yl)propoxy]phenyl}tetra-hydro-pyran-4-ylmethyl)dimethyl-amine
Dimethyl-{4-[4-(3-thiomorpholin-4-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine (300 mg, 0.792 mmol) and TFA (0.99 ml) were cooled to 0 to 5° C. and trifluoro-peracetic acid (4M, 0.77 ml) was added and the reaction allowed to warm to ambient temperature overnight. The mixture was diluted with DCM (6 ml), basified with NaOH (2M, 8 ml) and extracted with DCM (2×20 ml). The DCM extracts were dried over MgSO4, filtered and concentrated in vacuo at 35° C. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (96:4:1) provided the title compound (151 mg, 46%) as a white solid. 1H NMR (400 MHz, CDCl3) δ7.22 (d, 2H), 6.85 (d, 2H), 4.01 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 3.10-2.97 (m, 8H), 2.72 (t, 2H), 2.40 (s, 2H), 2.14-1.82 (m, 6H), 1.97 (s, 6H).

reactant | Dimethyl-{4-[4-(3-thiomorpholin-4-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine | 0.792 mmol, 300 mg | CN(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCSCC1)C | C21H34N2O2S
reactant | TFA | 0.99 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trifluoro-peracetic acid | 4M, 0.77 ml | FC(C(=O)OO)(F)F | C2HF3O3
reactant | NaOH | 2M, 8 ml | [OH-].[Na+]
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | (4-{4-[3-(1,1-Dioxo-thiomorpholin-4-yl)propoxy]phenyl}tetra-hydro-pyran-4-ylmethyl)dimethyl-amine | 151 mg, 46% | O=S1(CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN(C)C)=O | C21H34N2O4S
